US04394515
8-Nitrodibenzo[b,f]thiepin-3-carboxylic Acid 5,5-dioxide
400 Mg. 3-cyano-8-nitrodibenzo[b,f]thiepin-5,5-dioxide is refluxed in 5 cc. acetic acid and 5 cc. 50% aqueous sulfuric acid for 24 hours. The mixture is cooled down, the crystallized material is filtered, washed with water, dried at 135° C. in vacuum to yield 345 mg. (81.2%) acid, m.p. 310°-312° C.

reactant | 3-cyano-8-nitrodibenzo[b,f]thiepin-5,5-dioxide | C(#N)C=1C=CC2=C(S(C3=C(C=C2)C=C(C=C3)[N+](=O)[O-])(=O)=O)C1 | C15H8N2O4S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 8-Nitrodibenzo[b,f]thiepin-3-carboxylic Acid 5,5-dioxide | [N+](=O)([O-])C=1C=CC2=C(C=CC3=C(S2(=O)=O)C=C(C=C3)C(=O)O)C1 | C15H9NO6S
